US07378439B2
The processes for the preparation of Ropinirole HCl and its derivatives have previously been described. U.S. Pat. No. 4,452,808 describes the preparation of 4-aminoalkyl-2(3H)-indolones starting from either 4-aminoalkyl-7-hydroxy-2(3H)-indolones or 2-methyl-3-nitro-benzene acetic acid by two different processes. The 7-hydroxy intermediate (i) is first converted to its tetrazolo derivative (ii) which is then hydrogenated to get Ropinirole as shown in Scheme 1. Preparation of 7-hydroxy intermediate (i) is described in U.S. Pat. No. 4,314,944 by following a series of steps starting from p-methoxy phenethylamine. Second process described in U.S. Pat. No. 4,452,808 allows preparation of Ropinirole by following a series of steps starting from 2-methyl-3-nitro benzeneacetic acid.

reactant | Ropinirole HCl | CCCN(CCC)CCC=1C=CC=C2C1CC(=O)N2.Cl
reactant | 2-methyl-3-nitro-benzene acetic acid | CC1=C(C=CC=C1[N+](=O)[O-])CC(=O)O | C9H9NO4
product | Ropinirole | CCCN(CCC)CCC=1C=CC=C2C1CC(=O)N2 | C16H24N2O
